US07977344B2
2-(Butyloxy)-8-(methyloxy)-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine
A solution of 2-butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt (4.5 g), tetrahydro-3-furanylmethyl methanesulfonate (2.77 g) and potassium carbonate (5.31 g) in dimethyl sulfoxide (45 ml) was stirred and heated at 60° C. for 1.5 hours, followed by heating at 90° C. for 2.5 hours. The reaction was allowed to cool and the mixture diluted with water and brine, and shaken with ethyl acetate. The insoluble solid present was filtered (209 mg of product) and the organic layer separated. The aqueous layer was further extracted four times with ethyl acetate. The combined organic layers were washed with water and then brine. The organic layer was dried by passing through a hydrophobic frit and concentrated in vacuo to yield a light brown solid (4.18 g). This was recrystallised from acetonitrile (25 ml) to afford the product (2.28 g). This was further purified by dissolving in dichloromethane and washing with 1M hydrochloric acid, brine and saturated sodium hydrogencarbonate. The organic layer was dried through a hydrophobic frit and concentrated in vacuo to yield the product as a cream coloured solid (2.03 g).

reactant | 2-butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt | 4.5 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | tetrahydro-3-furanylmethyl methanesulfonate | 2.77 g | CS(=O)(=O)OCC1COCC1 | C6H12O4S
reactant | potassium carbonate | 5.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 45 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 2-(Butyloxy)-8-(methyloxy)-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine | 4.18 g | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1COCC1)OC)N | C15H23N5O3
